US09428499B2
Step-b: Synthesis of 3-Amino-N-(1-(hydroxymethyl)cyclopropyl)benzamide
To the solution of N-(1-(hydroxymethyl)cyclopropyl)-3-nitrobenzamide (0.135 g, 0.571 mmol) in methanol Pd—C (50% wet) (0.015 g) was added and stirred at room temperature under hydrogen for 2 hr. Reaction mixture was filtered through celite and concentrated to afford product (01 g, 85%).

reactant | N-(1-(hydroxymethyl)cyclopropyl)-3-nitrobenzamide | 0.571 mmol, 0.135 g | OCC1(CC1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O4
solvent | methanol Pd—C | 0.015 g | CO.[Pd]
product | 3-Amino-N-(1-(hydroxymethyl)cyclopropyl)benzamide | NC=1C=C(C(=O)NC2(CC2)CO)C=CC1 | C11H14N2O2
